US09403798B2
4-[4-(4-Fluorophenyl)-5-methoxy-5,6-dihydropyridin-1(2H)-yl]-1-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-1,3,5-triazin-2(1H)-one
To an N,N-dimethylformamide (2.0 mL)-dichloromethane (2.0 mL) solution of 4-[4-(4-fluorophenyl)-5-hydroxy-5,6-dihydropyridin-1(2H)-yl]-1-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-1,3,5-triazin-2(1H)-one (50.0 mg, 0.111 mmol) synthesized in Synthesis Example 190, triethylamine (23.2 μL, 0.167 mmol) and methyl iodide (20.6 μL, 0.332 mmol) were added at room temperature and the resultant mixture was stirred at room temperature for 1 day. Next, to the reaction solution, potassium carbonate (50.0 mg, 0.362 mmol) and methyl iodide (40.0 μL, 0.643 mmol) were added and the resultant mixture was stirred at 50° C. for 1 hour. Then, to the reaction solution, sodium hydride (12.0 mg, 0.500 mmol) and methyl iodide (40.0 μL, 0.643 mmol) were added and the resultant mixture was stirred at room temperature for 1 day. After the completion of the reaction, to the reaction solution, water was added and extraction with chloroform from the reaction solution was performed. The organic layer was dried over anhydrous magnesium sulfate and was concentrated under reduced pressure and the resultant residue was purified by silica gel column chromatography to obtain the title compound (7.80 mg, yield: 15%).

reactant | 4-[4-(4-fluorophenyl)-5-hydroxy-5,6-dihydropyridin-1(2H)-yl]-1-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-1,3,5-triazin-2(1H)-one | 0.111 mmol, 50.0 mg | FC1=CC=C(C=C1)C1=CCN(CC1O)C1=NC(N(C=N1)CC=1SC(=CC1)C(F)(F)F)=O | C20H16F4N4O2S
reactant | triethylamine | 0.167 mmol, 23.2 μL | C(C)N(CC)CC | C6H15N
reactant | methyl iodide | 0.332 mmol, 20.6 μL | CI | CH3I
reactant | potassium carbonate | 0.362 mmol, 50.0 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.643 mmol, 40.0 μL | CI | CH3I
reactant | sodium hydride | 0.500 mmol, 12.0 mg | [H-].[Na+]
reactant | methyl iodide | 0.643 mmol, 40.0 μL | CI | CH3I
solvent | water | O | H2O
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
product | 4-[4-(4-Fluorophenyl)-5-methoxy-5,6-dihydropyridin-1(2H)-yl]-1-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-1,3,5-triazin-2(1H)-one | 7.80 mg, yield: 15% | FC1=CC=C(C=C1)C1=CCN(CC1OC)C1=NC(N(C=N1)CC=1SC(=CC1)C(F)(F)F)=O | C21H18F4N4O2S
